### PR TITLE
[Merged by Bors] - chore: clean up "was simp" porting notes

### PR DESCRIPTION
**Pull request by Vierkantor**
Go through all the files with porting notes along the lines of "was `simp`", "was `simp_rw`", "used to be `simp`" and try to:
 * Restore original, if possible;
 * Use another cleaner way to solve the issue;
 * Delete the note if it's not worth going back to the old version;
 * Renumber the note if it's a more applicable issue (#11119 in particular);
 * Or not touch the note if it's still relevant.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/MongePoint.lean [hunk 1]
```diff
@@ -502,16 +502,8 @@ theorem dist_orthocenter_reflection_circumcenter (t : Triangle ℝ P) {i₁ i₂
...
-  rw [← sum_sdiff hu, ← sum_sdiff hu, hi₃, sum_singleton, ← sum_sdiff hu, hi₃]
-  split_ifs with h
-  · exact (h.elim hi₃₁ hi₃₂).elim
-  simp only [zero_add, Nat.cast_one, inv_one, sub_zero, one_mul, pointsWithCircumcenter_point,
-    sum_singleton, h, ite_false, dist_self, mul_zero, mem_singleton, true_or, ite_true, sub_self,
-    zero_mul, implies_true, sum_insert_of_eq_zero_if_not_mem, or_true, add_zero, div_one,
-    sub_neg_eq_add, pointsWithCircumcenter_eq_circumcenter, dist_circumcenter_eq_circumradius,
-    sum_const_zero, dist_circumcenter_eq_circumradius', mul_one, neg_add_rev, add_self_div_two]
-  norm_num
+  simp_rw [← sum_sdiff hu, hi₃]
```
Comment (grunweg) [inline Mathlib/Geometry/Euclidean/MongePoint.lean:505]: Just flagging this for reviewers --- in case this fix reveals something else should be fixed. (The other places are very clearly not of that form.) By itself, this diff looks perfectly fine.

File: Mathlib/GroupTheory/Perm/Fin.lean [hunk 2]
```diff
@@ -151,7 +151,7 @@ theorem cycleRange_of_gt {n : ℕ} {i j : Fin n.succ} (h : i < j) : cycleRange i
 theorem cycleRange_of_le {n : ℕ} {i j : Fin n.succ} (h : j ≤ i) :
     cycleRange i j = if j = i then 0 else j + 1 := by
   cases n
-  · exact Subsingleton.elim (α := Fin 1) _ _  --Porting note; was `simp`
+  · subsingleton
```
Comment (grunweg) [inline Mathlib/GroupTheory/Perm/Fin.lean:154]: Nice golf!

File: Mathlib/MeasureTheory/Constructions/Prod/Integral.lean [hunk 3]
```diff
@@ -153,8 +153,7 @@ theorem integrable_measure_prod_mk_left {s : Set (α × β)} (hs : MeasurableSet
   refine ⟨(measurable_measure_prod_mk_left hs).ennreal_toReal.aemeasurable.aestronglyMeasurable, ?_⟩
   simp_rw [HasFiniteIntegral, ennnorm_eq_ofReal toReal_nonneg]
   convert h2s.lt_top using 1
-  -- Porting note: was `simp_rw`
-  rw [prod_apply hs]
+  simp_rw [prod_apply hs]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/Prod/Integral.lean:156]: I don't have a strong opinion if this proof or its version prior to this PR is preferable. Same for the other change in this file.

File: Mathlib/RingTheory/DedekindDomain/PID.lean [hunk 4]
```diff
@@ -42,7 +42,6 @@ theorem Ideal.eq_span_singleton_of_mem_of_not_mem_sq_of_not_mem_prime_ne {P : Id
     exact hxP2 (zero_mem _)
   by_cases hP0 : P = ⊥
   · subst hP0
-    -- Porting note: was `simpa using hxP2` but that hypothesis didn't even seem relevant in Lean 3
     rwa [eq_comm, span_singleton_eq_bot, ← mem_bot]
```
Comment (grunweg) [inline Mathlib/RingTheory/DedekindDomain/PID.lean:45]: Does `simpa` work here?

**Review by grunweg — COMMENTED** [review]
Looks very nice, thank you! One or two comments - but this is good enough for a(nother) maintainer to take a look.
maintainer merge

**Comment by grunweg** [comment]
(I trust you, and did not verify, that you really caught all such notes.)

File: Mathlib/RingTheory/DedekindDomain/PID.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/RingTheory/DedekindDomain/PID.lean:45]: Only with some tweaking to the `eq_comm` and the `mem_bot` so it rewrites the right things:
```suggestion
    simpa [eq_comm (a := ⊥), span_singleton_eq_bot, mem_bot] using x_mem
```
(Feel free to apply this change if you think it really is better.)

File: Mathlib/MeasureTheory/Constructions/Prod/Integral.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/MeasureTheory/Constructions/Prod/Integral.lean:156]: Agreed, this was probably too much unthinkingly changing everything back.
```suggestion
  rw [prod_apply hs]
```

File: Mathlib/MeasureTheory/Constructions/Prod/Integral.lean [hunk 5]
```diff
@@ -426,8 +425,7 @@ theorem integral_prod (f : α × β → E) (hf : Integrable f (μ.prod ν)) :
       integral_indicator (measurable_prod_mk_left hs), setIntegral_const, integral_smul_const,
       integral_toReal (measurable_measure_prod_mk_left hs).aemeasurable
         (ae_measure_lt_top hs h2s.ne)]
-    -- Porting note: was `simp_rw`
-    rw [prod_apply hs]
+    simp_rw [prod_apply hs]
```
Comment (Vierkantor) [inline Mathlib/MeasureTheory/Constructions/Prod/Integral.lean:428]:
```suggestion
    rw [prod_apply hs]
```

**Review by Vierkantor — COMMENTED** [review]
I'll let @grunweg decide whether to apply these suggestions.

bors d=@grunweg

File: Mathlib/RingTheory/DedekindDomain/PID.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/RingTheory/DedekindDomain/PID.lean:45]: I see. In that case, the current proof is fine!
